* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/AND/AND_lvs/AND.pex.sp.pex
* Created: Thu Nov 30 17:35:49 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND%OUT 2 5 8 10 13 18 26 30 32 33
c55 33 0 1.74293e-19
c56 32 0 1.74293e-19
c57 5 0 3.0575e-19
c58 2 0 2.31185e-19
r59 28 30 0.118525
r60 24 26 0.118525
r61 21 32 15
r62 18 21 0.468484
r63 18 32 10
r64 16 30 0.00503833
r65 16 18 0.182709
r66 13 33 10
r67 11 26 0.00503833
r68 11 13 0.180366
r69 10 28 0.00503833
r70 9 10 0.400906
r71 7 24 0.00503833
r72 7 8 0.400906
r73 5 9 0.0889225
r74 5 8 0.0909428
r75 2 5 1.7
.ends

.subckt PM_AND%VSS 1 2 9 14 16 23
r45 14 16 0.212762
r46 12 19 0.0264868
r47 12 14 0.0369176
r48 9 23 10
r49 7 19 0.018948
r50 7 9 1.67314
r51 2 19 0.0264868
r52 2 4 0.0514903
r53 1 16 15
r54 1 4 10
.ends

.subckt PM_AND%NET012 5 7 8 10 11 16 22 25 31 35 38 39 40 42
c96 42 0 1.8981e-19
c97 40 0 1.84933e-21
c98 22 0 1.97438e-19
c99 16 0 1.74293e-19
c100 11 0 1.74293e-19
c101 8 0 1.15592e-19
c102 5 0 1.15592e-19
r103 35 42 10
r104 33 35 0.408753
r105 32 38 0.0363272
r106 31 33 0.0479332
r107 31 32 0.219246
r108 28 40 15
r109 25 28 0.577442
r110 25 40 10
r111 23 39 0.0363272
r112 23 25 0.506705
r113 22 39 0.0363272
r114 21 38 0.00944082
r115 21 22 0.657537
r116 18 19 25
r117 16 39 0.00944082
r118 16 18 0.595155
r119 13 14 25
r120 11 38 0.0363272
r121 11 13 0.595155
r122 8 19 8.42363
r123 8 10 44.9134
r124 5 14 8.5324
r125 5 7 25.3858
.ends

.subckt PM_AND%VDD 1 2 9 15 18 24 33 35
c56 1 0 1.84933e-21
r57 28 35 15
r58 24 28 0.468484
r59 24 35 10
r60 22 28 1.34572
r61 18 20 0.189445
r62 16 30 0.0264868
r63 16 18 0.0602339
r64 15 22 0.0500233
r65 15 20 0.177787
r66 13 33 15
r67 9 13 0.577442
r68 9 33 10
r69 7 30 0.018948
r70 7 13 1.6587
r71 2 30 0.0264868
r72 2 4 0.0514903
r73 1 20 15
r74 1 4 10
.ends

.subckt PM_AND%IN1 4 6 9 10 12 14 16 19
c64 10 0 1.29816e-19
c65 9 0 1.29816e-19
c66 6 0 5.41558e-20
c67 4 0 5.41558e-20
r68 19 22 25
r69 16 19 1.7
r70 9 22 7.76809
r71 9 10 0.501911
r72 6 14 44.9134
r73 5 10 4.46794
r74 5 6 30.2677
r75 4 10 4.46794
r76 3 12 25.3858
r77 3 4 30.2677
.ends

.subckt PM_AND%IN2 4 6 10 12 14 16 19 22
c43 22 0 1.29816e-19
c44 16 0 1.8981e-19
c45 10 0 1.29816e-19
r46 19 22 25
r47 16 19 1.7
r48 9 22 7.76809
r49 9 10 0.501911
r50 6 14 44.9134
r51 5 10 4.46794
r52 5 6 30.2677
r53 4 10 4.46794
r54 3 12 25.3858
r55 3 4 30.2677
.ends

