* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/AOI21/AOI21_lvs/AOI21.pex.sp.pex
* Created: Thu Nov 30 17:40:04 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21%VSS 1 4 7 13 19 28 29
c46 19 0 1.15222e-19
c47 4 0 1.49754e-20
r48 19 29 10
r49 17 24 0.018948
r50 17 19 1.35743
r51 13 15 0.212762
r52 10 13 0.175844
r53 8 10 0.181673
r54 7 24 0.0264868
r55 7 15 0.114639
r56 4 28 10
r57 2 8 0.0500233
r58 2 4 1.35743
r59 1 15 15
r60 1 10 10
.ends

.subckt PM_AOI21%OUT 2 3 6 11 12 13 16 24 29 31 32 35
c56 11 0 3.62017e-19
c57 3 0 1.49754e-20
c58 2 0 1.03283e-19
r59 27 29 0.0874363
r60 24 32 10
r61 22 24 0.518254
r62 19 31 15
r63 16 19 0.468484
r64 16 31 10
r65 14 29 0.00503833
r66 14 16 0.182709
r67 12 22 0.0479332
r68 12 13 0.446788
r69 11 27 0.00503833
r70 11 36 0.405918
r71 8 13 0.0479332
r72 8 35 0.139064
r73 3 36 0.0920126
r74 3 35 0.0939707
r75 2 6 0.125674
r76 2 3 1.7
.ends

.subckt PM_AOI21%NET11 3 9 10 13 19 21
c51 9 0 1.24707e-19
r52 16 21 15
r53 13 16 0.468484
r54 13 21 10
r55 11 13 0.422807
r56 9 11 0.0479332
r57 9 10 0.741836
r58 6 19 15
r59 3 6 0.577442
r60 3 19 10
r61 1 10 0.0479332
r62 1 3 0.521141
.ends

.subckt PM_AOI21%VDD 1 2 8 11 19 25
r47 17 22 0.0264868
r48 17 19 0.0553763
r49 15 25 15
r50 11 15 0.577442
r51 11 25 10
r52 9 22 0.018948
r53 9 15 1.6587
r54 4 8 0.199161
r55 2 22 0.0264868
r56 2 8 0.0466327
r57 1 19 15
r58 1 4 10
.ends

.subckt PM_AOI21%IN3 6 10 12 14 15 18 21 23
c57 23 0 1.09741e-19
c58 21 0 2.86631e-19
c59 15 0 9.48515e-21
c60 12 0 1.78669e-19
c61 6 0 1.09741e-19
r62 21 24 5.29596
r63 21 23 5.41025
r64 21 22 25
r65 15 22 0.0998078
r66 14 18 0.137285
r67 14 15 1.7
r68 6 12 44.9134
r69 6 24 29.2913
r70 3 10 25.3858
r71 3 23 29.2913
.ends

.subckt PM_AOI21%IN1 4 6 10 12 14 15 18 23
c60 15 0 3.7377e-19
c61 14 0 9.50937e-20
c62 6 0 9.83483e-20
c63 4 0 9.83483e-20
r64 23 24 25
r65 20 23 3.21481
r66 15 24 0.0933103
r67 14 18 0.139303
r68 14 15 1.7
r69 6 12 44.9134
r70 5 20 2.89734
r71 5 6 29.2913
r72 4 20 2.89734
r73 3 10 25.3858
r74 3 4 29.2913
.ends

.subckt PM_AOI21%IN2 4 6 9 10 12 19 22 24 26 27 30 35
c55 27 0 1.96697e-19
c56 19 0 2.49382e-19
r57 35 36 25
r58 32 35 3.08956
r59 27 36 0.0925391
r60 26 30 0.133177
r61 26 27 1.7
r62 12 19 0.411811
r63 11 32 2.89734
r64 11 12 9.27559
r65 10 32 2.89734
r66 9 13 6.34646
r67 9 10 9.27559
r68 6 24 44.9134
r69 5 19 6.34646
r70 5 6 13.6693
r71 4 13 0.411811
r72 3 22 25.3858
r73 3 4 13.6693
.ends

