* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/AOI22/AOI22_lvs/AOI22.pex.sp.pex
* Created: Thu Nov 30 17:45:52 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI22%VSS 1 6 9 15 21 33 34
r58 24 29 0.0264868
r59 24 26 0.00791905
r60 21 34 10
r61 19 29 0.018948
r62 19 21 1.35743
r63 15 17 0.212762
r64 12 15 0.370147
r65 10 28 0.0264868
r66 10 12 0.0699491
r67 9 29 0.0264868
r68 9 17 0.289511
r69 6 33 10
r70 4 28 0.018948
r71 4 6 1.35743
r72 1 26 30
r73 1 17 10
r74 1 12 10
.ends

.subckt PM_AOI22%OUT 2 5 9 12 13 18 24 26 29
c76 29 0 1.55815e-19
c77 13 0 1.14461e-19
c78 5 0 3.50179e-20
r79 21 24 15
r80 18 21 0.577442
r81 18 30 0.955957
r82 18 24 10
r83 14 29 0.192203
r84 12 14 0.0479332
r85 12 13 0.219246
r86 9 26 10
r87 7 13 0.0479332
r88 7 9 0.518254
r89 5 30 0.0931913
r90 5 29 0.0952938
r91 2 5 1.7
.ends

.subckt PM_AOI22%NET11 3 9 10 14 19 20 23 29 30 32
r77 27 32 15
r78 23 27 0.468484
r79 23 32 10
r80 21 27 0.420465
r81 19 21 0.0479332
r82 19 20 0.551246
r83 17 30 15
r84 14 17 0.577442
r85 14 30 10
r86 12 20 0.0479332
r87 12 17 0.518254
r88 11 14 0.521141
r89 9 11 0.0479332
r90 9 10 0.741836
r91 6 29 15
r92 3 6 0.468484
r93 3 29 10
r94 1 10 0.0479332
r95 1 3 0.422807
.ends

.subckt PM_AOI22%VDD 1 6 17 19 22 25
r54 17 19 0.189445
r55 14 17 0.199161
r56 12 22 0.0264868
r57 12 14 0.0631485
r58 10 25 15
r59 6 10 0.577442
r60 6 25 10
r61 4 22 0.018948
r62 4 10 1.6587
r63 1 19 15
r64 1 14 10
.ends

.subckt PM_AOI22%IN1 2 4 8 9 10 15 22 24 29 33 35
c61 33 0 2.13584e-19
c62 29 0 4.64041e-21
r63 32 35 3.67407
r64 32 33 25
r65 27 33 0.0764236
r66 27 29 1.7
r67 10 24 44.9134
r68 9 17 11.4236
r69 9 10 11.7165
r70 8 15 0.411811
r71 7 22 25.3858
r72 7 8 11.7165
r73 4 17 0.316689
r74 3 35 2.82969
r75 3 4 10.9581
r76 2 35 2.82969
r77 1 15 11.4236
r78 1 2 11.1504
.ends

.subckt PM_AOI22%IN2 2 4 8 10 15 19 22 24 26 33 35
c78 33 0 1.96293e-19
c79 19 0 3.86111e-20
c80 4 0 9.31942e-20
c81 2 0 2.07655e-19
r82 32 35 3.34007
r83 32 33 25
r84 29 33 0.0868084
r85 26 29 1.7
r86 17 19 5.24964
r87 10 24 44.9134
r88 9 19 0.636017
r89 9 10 11.7165
r90 8 15 0.412082
r91 7 22 25.792
r92 7 8 11.904
r93 4 17 0.545161
r94 3 35 2.82969
r95 3 4 10.4775
r96 2 35 2.82969
r97 1 15 5.66299
r98 1 2 11.1504
.ends

.subckt PM_AOI22%IN3 4 6 10 12 17 21 23
c69 21 0 2.25917e-20
c70 17 0 4.4382e-20
c71 6 0 9.81466e-20
c72 4 0 1.0162e-19
r73 20 23 3.63232
r74 20 21 25
r75 15 21 0.0836364
r76 15 17 1.7
r77 6 12 44.9134
r78 5 23 2.89734
r79 5 6 29.1937
r80 4 23 2.89734
r81 3 10 25.3858
r82 3 4 29.389
.ends

.subckt PM_AOI22%IN4 4 6 10 12 14 17 22
c48 14 0 1.55815e-19
r49 22 23 25
r50 19 22 3.67407
r51 17 23 0.0807907
r52 14 17 1.7
r53 6 12 44.9134
r54 5 19 2.89734
r55 5 6 29.1937
r56 4 19 2.89734
r57 3 10 25.3858
r58 3 4 29.389
.ends

